US05008263
2,3-Dihydro-7,8-dimethyl-4-[4-(5-chloro-4-formyl-2-methylimidazol-1-yl)phenyl]-1H-[1,5]benzodiazepin-2-one
A solution of 4-[5-chloro-4-(1,3-dioxolan-2-yl)-2-methylimidazol-1-yl]benzoylacetate from Preparation 5 (155 mg, 0.38 mmol), and 4,5-dimethyl-1,2-diaminobenzene (55 mg, 0.4 mmol) in toluene (4 ml) was heated at reflux for 4.5 hours, then evaporated to dryness and purified by flash chromatography (eluting with ethyl acetate) to afford a pale yellow gum. 1M HCl (2 ml) was added to a solution of the residue in THF (2 ml) and the mixture was heated to 70° C. for 1 hour. The THF was evaporated and the residue was partitioned between aqueous sodium bicarbonate and dichloromethane. The organic layer was dried over magnesium sulphate and evaporated.

reactant | 4-[5-chloro-4-(1,3-dioxolan-2-yl)-2-methylimidazol-1-yl]benzoylacetate | ClC1=C(N=C(N1C1=CC=C(C(=O)CC(=O)[O-])C=C1)C)C1OCCO1
reactant | 4,5-dimethyl-1,2-diaminobenzene | 0.4 mmol, 55 mg | CC1=CC(=C(C=C1C)N)N | C8H12N2
reactant | HCl | 1M, 2 ml | Cl | ClH
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 2,3-Dihydro-7,8-dimethyl-4-[4-(5-chloro-4-formyl-2-methylimidazol-1-yl)phenyl]-1H-[1,5]benzodiazepin-2-one | CC1=CC2=C(NC(CC(=N2)C2=CC=C(C=C2)N2C(=NC(=C2Cl)C=O)C)=O)C=C1C | C22H19ClN4O2
